US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-isopropoxybenzoyl]morpholine
Morpholine (0.030 g, 0.348 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.100 g, 0.521 mmol) were added to a methylene chloride solution (5 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-isopropoxybenzoic acid (0.065 g, 0.174 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (hexand:ethyl acetate=1:6) to obtain the titled compound (0.026 g, 0.0586 mmol, 34%).

reactant | Morpholine | 0.348 mmol, 0.030 g | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.521 mmol, 0.100 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-isopropoxybenzoic acid | 0.174 mmol, 0.065 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC(C)C)C)=O | C20H22O7
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-isopropoxybenzoyl]morpholine | 0.0586 mmol, 0.026 g, 34% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)N2CCOCC2)C1)OC(C)C)C)=O | C24H29NO7
